US09388189B2
(S)-5-Methyl-2-(1-((5-(2-methyloxazol-5-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (60 mg, 0.1 mmol) was treated with 2-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)oxazole (52 mg, 0.25 mmol), tetrakistriphenylphosphine palladium (35 mg, 0.03 mmol) and aqueous solution of sodium carbonate (2M, 125 μl, 0.25 mmol) in DMF (1.5 ml). The reaction mixture was submitted at vacuum-argon cycles and stirred at 100° C. for 2 h. The reaction mixture was allowed to cool down to room temperature and poured over ice, basified with potassium carbonate and extracted with ethyl acetate (×3). The organic phase was successively washed with water and brine, dried over magnesium sulphate, filtered and the solvent evaporated under reduced pressure. The residue was purified by normal phase using SP1® Purification System (0% to 100%, hexane-diethyl ether) to obtain 31 mg (52% yield) of the title compound.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.1 mmol, 60 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C27H32BrN7O2Si
reactant | 2-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)oxazole | 0.25 mmol, 52 mg | CC=1OC(=CN1)B1OC(C(O1)(C)C)(C)C | C10H16BNO3
reactant | sodium carbonate | 0.25 mmol, 2M, 125 μl | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | (S)-5-Methyl-2-(1-((5-(2-methyloxazol-5-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 31 mg, 52% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)N(C=C1C1=CN=C(O1)C)COCC[Si](C)(C)C | C31H36N8O3Si
